US07547710B2
3-(aminomethyl)-2-isobutyl-4-phenylquinoline-6-carbonitrile
A solution of (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylamine (0.20 g, 0.54 mmol) in N-methylpyrrolidone (8 ml) was stirred under a nitrogen atmosphere at 80° C. for 15 min. To the reaction mixture were added zinc cyanide (0.038 g, 0.32 mmol) and tetrakis(triphenylphosphine)palladium (0.032 g, 0.027 mmol), and the mixture was further stirred under a nitrogen atmosphere at 80° C. for 1 hr. The reaction mixture was partitioned between ethyl acetate (50 ml) and 28% aqueous ammonia (6 ml)-saturated aqueous ammonium chloride solution (22 ml)-water (22 ml). The organic layer was washed twice with 28% aqueous ammonia (6 ml)-saturated aqueous ammonium chloride solution (22 ml)-water (22 ml) and then with saturated brine (20 ml), and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by preparative HPLC and the objective fractions were combined and concentrated under reduced pressure. The residue was alkalified with saturated aqueous sodium hydrogen carbonate (50 ml) and extracted twice with ethyl acetate (50 ml). The organic layers were combined, washed with saturated brine (20 ml) and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was crystallized from n-hexane-ethyl acetate to give the title compound (0.032 g, yield 19%) as colorless crystals.

reactant | (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylamine | 0.54 mmol, 0.20 g | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN)C1=CC=CC=C1 | C20H21BrN2
reactant | N-methylpyrrolidone | 8 ml | CN1C(CCC1)=O | C5H9NO
catalyst | zinc cyanide | 0.32 mmol, 0.038 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.027 mmol, 0.032 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(aminomethyl)-2-isobutyl-4-phenylquinoline-6-carbonitrile | 0.032 g, yield 19% | NCC=1C(=NC2=CC=C(C=C2C1C1=CC=CC=C1)C#N)CC(C)C | C21H21N3
